US05208253
4-[[[5-Methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]-carbonyl]amino]-benzoic acid
A mixture of 4.0 g of methyl 4-[[[5-methoxy-3-(1-methylethoxy)-benzo[b]thien-2-yl]carbonyl]amino]benzoate and 2 g of 50% NaOH in 100 mL of 10% aqueous methanol is heated on a steam bath for 15 minutes, then poured onto ice and acidified with 10% HCl. The resulting gum is extracted into 500 mL of diethyl ether. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude solid is triturated with t-butyl methyl ether to provide 2.5 g of product; mp 236°-239° C. (dec).

reactant | methyl 4-[[[5-methoxy-3-(1-methylethoxy)-benzo[b]thien-2-yl]carbonyl]amino]benzoate | 4.0 g | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C21H21NO5S
reactant | NaOH | 2 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | 4-[[[5-Methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]-carbonyl]amino]-benzoic acid | 2.5 g | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C20H19NO5S
